US06358978B1
2.8 g of trt-Ser-OMe (Bachem), 0.75 of phenol, and 2.25 g of triphenylphosphine were dissolved together in 60 ml of THF, absolute, and treated dropwise with 1.49 g of diethyl azodicarboxylate at 0° C. in the course of 30 min. The reaction mixture was stirred at 0° C. for 30 min and warmed to RT (about 1 h). For working-up, the solvent was removed under reduced pressure and the crude product was purified by chromatography on silica gel (heptane/ethyl acetate=1.5/1). The methyl (S)-2-tritylamino-3-phenoxypropionate thus obtained crystallized slowly in long needles, and was heated under reflux for 1 h in 5 M HCl to remove the protective groups. The reaction solution was evaporated to dryness under reduced pressure by coevaporating a number of times with toluene and the residue was recrystallized from a little tert-butanol.

reactant | trt-Ser-OMe | 2.8 g | COC(=O)[C@H](CO)NC(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3 | C23H23NO3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 2.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.49 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | methyl (S)-2-tritylamino-3-phenoxypropionate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H](C(=O)OC)COC1=CC=CC=C1 | C29H27NO3
